US05948932
Synthesis of pentane-2,3-dione 2-(O-methyloxime)
49.7 g (0.35 mol) of methyl iodide are added dropwise at room temperature to a solution of 40.2 g (0.55 mol) of pentane-2,3-dione 2-oxime and 52.0 g (0.38 mol) of potassium carbonate in 400 ml of acetone, and stirring is continued for 12 hours at this temperature.

reactant | methyl iodide | 0.35 mol, 49.7 g | CI | CH3I
reactant | pentane-2,3-dione 2-oxime | 0.55 mol, 40.2 g | CC(C(CC)=O)=NO | C5H9NO2
reactant | potassium carbonate | 0.38 mol, 52.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | pentane-2,3-dione 2-(O-methyloxime) | CON=C(C)C(CC)=O | C6H11NO2
